US04616086
Ethyl 4-{2-[1-(2-Hydroxypropyl)-piperazin-4-yl]-ethyl}-phenylacetate
This is prepared analogously to Example 11 by the reaction of ethyl 4-[2-(piperazin-1-yl)-ethyl]-phenylacetate with propylene oxide. Yield 92% of theory; colourless oil.

reactant | ethyl 4-[2-(piperazin-1-yl)-ethyl]-phenylacetate | N1(CCNCC1)CCC1=CC=C(C=C1)CC(=O)OCC | C16H24N2O2
reactant | propylene oxide | C1C(C)O1 | C3H6O
product | Ethyl 4-{2-[1-(2-Hydroxypropyl)-piperazin-4-yl]-ethyl}-phenylacetate | Yield 92% | OC(CN1CCN(CC1)CCC1=CC=C(C=C1)CC(=O)OCC)C | C19H30N2O3
